US05998647
c. cyclohexane dicarboxylic acid molybdenum
0.885 g (5.14 mmol) of cyclohexane dicarboxylic acid and 1,000 g (2.34 mmol) of molybdenum acetate were dissolved in 900 ml of methanol. After this was stirred for three days at the room temperature, this was kept still for a few days. Thereafter, its precipitation product was suction-filtered, rinsed sufficiently with methanol and then vacuum-dried for 60° C./4 hours, whereby 1.216 g of target substance was obtained. This substance had the specific surface area of 212 m2 /g. And, a measurement according to the HK method using argon revealed that the substance had the pore diameter of 5.2 Å.

reactant | cyclohexane dicarboxylic acid | 5.14 mmol, 0.885 g | C1(CCCCC1)(C(=O)O)C(=O)O | C8H12O4
reactant | molybdenum acetate | 2.34 mmol, 1,000 g | C(C)(=O)[O-].[Mo+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | methanol | 900 ml | CO | CH4O
product | cyclohexane dicarboxylic acid molybdenum | [Mo].C1(CCCCC1)(C(=O)O)C(=O)O | InChI=1S/C8H12O4.Mo/c9-6(10)8(7(11)12)4-2-1-3-5-8;/h1-5H2,(H,9,10)(H,11,12);
